* Z:\mnt\design.r\spice\examples\1580-2.5.asc
V1 N004 0 12
C1 N003 N006 22µ
Iload N003 N006 PULSE(400m 7 150u 100n 100n 200u 600u)
V2 N001 0 5
Rpar1 N003 N002 10m
Rpar2 N006 0 10m
C2 N005 N006 20µ
XU1 N005 N006 N003 N002 N001 N004 LT1580-2.5
.tran 500u
* Vout
* +
* -
* Remote Load Sensing
.lib LT1584.lib
.backanno
.end
